US06492421B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-4-[2-(N,N-diisopropylamino)ethoxy]-L-phenylalanine
The methyl ester was prepared via O-alkylation of N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester with 2-diisopropylaminoethyl chloride in refluxing 2-butanone in the presence of potassium carbonate and sodium iodide. The title compound was prepared using the procedure described in Method 7 as a solid, mp=121-124° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | 2-diisopropylaminoethyl chloride | C(C)(C)N(CCCl)C(C)C | C8H18ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-[2-(N,N-diisopropylamino)ethoxy]-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=C(C=C2)OCCN(C(C)C)C(C)C)C(=O)O)CCC1)C | C29H41N3O6S
